US06541583B2
In a 250 mL round bottom flask, 180 mL of ethanol, 10 mL of HCl, 16.3 grams of 1-indanone (0.124 mole) and 19.5 grams of p-methylphenylhydrazine hydrochloride (0.124 mole) are heated to reflux for six hours. After cooling to 25° C., the resulting precipitate is filtered, washed twice with 100 mL of 10% aqueous ethanol, twice with 50 mL of water, and then twice with 50 mL of hexane. After drying, 25 grams of 8-methyl-5, 10-dihydroindeno[1,2-b]indole is obtained.

reactant | HCl | 10 mL | Cl | ClH
reactant | 1-indanone | 0.124 mole, 16.3 grams | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | p-methylphenylhydrazine hydrochloride | 0.124 mole, 19.5 grams | Cl.CC1=CC=C(C=C1)NN
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | 8-methyl-5, 10-dihydroindeno[1,2-b]indole | 25 grams | CC1=CC=2C3=C(NC2C=C1)C1=CC=CC=C1C3 | C16H13N
